US07417065B2
To a solution of 3-{[2-(4-chloro-3-trifluoromethyl-phenyl)-benzofuran-5-ylmethyl]-amino}-propionic acid tert-butyl ester (1 eq) and phenyl boric acid (1.5 eq) in THF (0.5 M) is added palladium(II) acetate (0.1 eq), 2-(dicyclohexylphosphino)biphenyl (0.2 eq) and potassium fluoride (4.0 eq). The mixture is irradiated with microwave at 120° C. for 45 minutes. The product, 3-{[2-(2-trifluoromethyl-biphenyl-4-yl)-benzofuran-5-ylmethyl]-amino}-propionic acid tert-butyl ester, is purified with column chromatography. The ester is hydrolyzed with TFA in CH2Cl2 (1:2, v/v) at room temperature. It is purified with preparative LCMS to afford 3-{[2-(2-trifluoromethyl-biphenyl-4-yl)-benzofuran-5-ylmethyl]-amino}-propionic acid, which is converted to HCl salt: 1H NMR (400 MHz, CD3OD) δ 8.29 (d, 1 H), 8.18 (dd, 1 H), 7.82 (d, 1 H), 7.71 (d, 1 H), 7.55-7.30 (m, 8 H), 4.36 (s, 2 H), 3.32 (t, 2 H), 2.77 (t, 2 H); MS (ES) 440.2 (M+H+).

reactant | 3-{[2-(4-chloro-3-trifluoromethyl-phenyl)-benzofuran-5-ylmethyl]-amino}-propionic acid tert-butyl ester | 1 eq | C(C)(C)(C)OC(CCNCC=1C=CC2=C(C=C(O2)C2=CC(=C(C=C2)Cl)C(F)(F)F)C1)=O | C23H23ClF3NO3
reactant | phenyl boric acid | 1.5 eq | C1(=CC=CC=C1)OB(O)O | C6H7BO3
reactant | 2-(dicyclohexylphosphino)biphenyl | 0.2 eq | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | potassium fluoride | 4.0 eq | [F-].[K+]
solvent | THF | 0.5 M | C1CCOC1 | C4H8O
catalyst | palladium(II) acetate | 0.1 eq | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-{[2-(2-trifluoromethyl-biphenyl-4-yl)-benzofuran-5-ylmethyl]-amino}-propionic acid | FC(C1=C(C=CC(=C1)C=1OC2=C(C1)C=C(C=C2)CNCCC(=O)O)C2=CC=CC=C2)(F)F | C25H20F3NO3
